US07915287B2
365 mg of a mixture of 2-(3-fluoro-4-hydroxyphenylamino)-5-methyl-N-phenylnicotinamide and the des-methyl analog and 4-chloropyridin-2-amine (264 mg, 2054 μmol) were dissolved in NMP (5.0 ml) and triethylamine (0.75 ml, 5381 μmol) was added. The flask was fitted with a reflux condenser, placed in a preheated oil bath (185° C.-190° C.), and stirred under argon. After about 22 hours, more 4-chloropyridin-2-amine (250 mg, 1.95 mmol), DMAP (171 mg, 1.40 mmol), triethylamine (0.30 ml, 4.1 mmol), and NMP (1 ml) were added, and stirring was continued at 190 C for another day. The reaction was then cooled to room temperature and quenched with water (20 ml). The water was decanted, and the residual solid was collected with DCM and MeOH, concentrated, and purified on silica gel (50:1→25:1 DCM/MeOH→15:1 DCM/2 N ammonia in MeOH) to afford the desired 2-(4-(2-aminopyridine-4-yloxy)-3-fluorophenylamino)-5-methyl-N-phenylnicotinamide along with the des-methyl analog. This mixture was taken to the last step.

reactant | 2-(3-fluoro-4-hydroxyphenylamino)-5-methyl-N-phenylnicotinamide | FC=1C=C(C=CC1O)NC1=C(C(=O)NC2=CC=CC=C2)C=C(C=N1)C | C19H16FN3O2
reactant | 4-chloropyridin-2-amine | 2054 μmol, 264 mg | ClC1=CC(=NC=C1)N | C5H5ClN2
reactant | triethylamine | 5381 μmol, 0.75 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chloropyridin-2-amine | 1.95 mmol, 250 mg | ClC1=CC(=NC=C1)N | C5H5ClN2
reactant | triethylamine | 4.1 mmol, 0.30 ml | C(C)N(CC)CC | C6H15N
solvent | NMP | 5.0 ml | CN1CCCC1=O | C5H9NO
catalyst | DMAP | 1.40 mmol, 171 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
product | 2-(4-(2-aminopyridine-4-yloxy)-3-fluorophenylamino)-5-methyl-N-phenylnicotinamide | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC1=C(C(=O)NC2=CC=CC=C2)C=C(C=N1)C)F | C24H20FN5O2
